US09079861B2
A solution of (R)-3-amino-3-phenyl-N-m-tolylbutanamide (218 mg, 0.81 mmol) in THF (5 mL) was cooled to 0° C. under N2 and 2M BH3.Me2S (1 mL, 2 mmol) was added. Then the mixture was stirred at 80° C. overnight. The reaction mixture was quenched with MeOH and concentrated. The residue was purified by preparative TLC to afford (R)-3-phenyl-N1-m-tolylbutane-1,3-diamine (50 mg, 24%). 1H NMR (CDCl3): 1.59-1.62 (m, 7H), 1.30-1.35 (m, 4H), 2.15-2.20 (m, 3H), 2.40-2.65 (m, 2H), 2.98-3.05 (m, 2H), 3.35-3.45 (m, 1H), 3.60-3.65 (m, 6H), 3.75-3.80 (m, 1H), 6.40-6.60 (m, 2H), 6.90-7.01 (m, 1H), 7.25-7.40 (m, 4H), 7.45-7.52 (m, 2H).

reactant | (R)-3-amino-3-phenyl-N-m-tolylbutanamide | 0.81 mmol, 218 mg | N[C@@](CC(=O)NC=1C=C(C=CC1)C)(C)C1=CC=CC=C1 | C17H20N2O
reactant | Me2S | 2 mmol, 1 mL | S(C)C | C2H6S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (R)-3-phenyl-N1-m-tolylbutane-1,3-diamine | 50 mg, 24% | C1(=CC=CC=C1)[C@](CCNC=1C=C(C=CC1)C)(C)N | C17H22N2
